US06008229
A solution of 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-1-methyl-3-trityloxy-1-propenyl)benzene (500 mg) in acetic acid (5 ml) was heated at 60° C. for 10 hours. The cooled reaction mixture was concentrated in vacuo and ethyl acetate was added thereto. The mixture was washed with aqueous sodium bicarbonate solution, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash silica gel chromatography eluted with n-hexane-ethyl acetate to give 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-3-hydroxy-1-methyl-1-propenyl)benzene (92 mg) as colorless oil.

reactant | 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-1-methyl-3-trityloxy-1-propenyl)benzene | 500 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)\C(=C/COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C)C | C48H50O2Si
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-((Z)-3-hydroxy-1-methyl-1-propenyl)benzene | 92 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)\C(=C/CO)\C)C | C29H36O2Si
